US07863271B2
A mixture of methyl 7-fluoro-2-thioxo-2,3-dihydrobenzoxazole-4-carboxylate (1.3 g, 5.72 mmol) and phosphorus pentachloride (1.2 g, 5.72 mmol) in phosphorus oxychloride (2.6 mL, 10.25 mmol) was heated to 95° C. for 3.5 h. After cooling to room temperature, the reaction mixture was concentrated and dried under vacuum to afford methyl 2-chloro-7-fluorobenzoxazole-4-carboxylate (1.3 g, quantitative) as a brown solid. 1H NMR (300 MHz, CDCl3) δ 8.08-8.04 (m, 1H), 7.21 (t, J=9.3 Hz, 1H), 4.02 (s, 3H); MS (ESI+) m/z 229 (M+H).

reactant | methyl 7-fluoro-2-thioxo-2,3-dihydrobenzoxazole-4-carboxylate | 5.72 mmol, 1.3 g | FC=1C=CC(=C2NC(OC21)=S)C(=O)OC | C9H6FNO3S
reactant | phosphorus pentachloride | 5.72 mmol, 1.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 10.25 mmol, 2.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methyl 2-chloro-7-fluorobenzoxazole-4-carboxylate | 1.3 g | ClC=1OC=2C(N1)=C(C=CC2F)C(=O)OC | C9H5ClFNO3
